US09126948B2
Step B: 1-(4,5-Dichloro-2-hydroxy-3-iodophenyl)ethanone
The desired compound was prepared according to the procedure of Example 6, Step 2, using 1-(4,5-dichloro-2-hydroxyphenyl)ethanone and N-iodosuccinimide (instead of N-bromosuccinimide) as the starting materials in 71% yield. LCMS for C8H6Cl2IO2 (M+H)+: m/z=330.9, 332.9. Found: 330.8, 332.9.

reactant | 1-(4,5-dichloro-2-hydroxyphenyl)ethanone | ClC1=CC(=C(C=C1Cl)C(C)=O)O | C8H6Cl2O2
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
product | 1-(4,5-Dichloro-2-hydroxy-3-iodophenyl)ethanone | 71% yield | ClC1=C(C(=C(C=C1Cl)C(C)=O)O)I | C8H5Cl2IO2
